US04917826
N-Benzylestra-1,3,5(10)-trien-17β-amine
To a solution of benzylamine (11.2 ml) in dry methanol (75 ml) was added sequentially acetic acid (6.16 ml), estra-1,3,5(10)-trien-17-one (5.21 g) sodium cyanoborohydride (1.35 g), and THF (60 ml) under a N2 atmosphere. The resulting mixture was stirred overnight at room temperature, concentrated in vacuo, diluted with water (200 ml), and made alkaline with aqueous sodium hydroxide (50 ml). The suspension was extracted with ethyl acetate (3×200 ml) and the combined extracts were dried over MgSO4, filtered and concentrated to an oil. This product was chromatographed (300 g silica gel 0.4-4-4-96 Et3N-acetone-hexane, 20 ml fractions) and gave impure product in fractions 53-79 and pure product in fractions 80-135. The latter were combined and after removal of the solvent gave the title compound as crystals, mp 71°-74° C. (PLA2, diabetes)

reactant | benzylamine | 11.2 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | acetic acid | 6.16 ml | C(C)(=O)O | C2H4O2
reactant | estra-1,3,5(10)-trien-17-one | 5.21 g | C[C@@]12C(CC[C@H]1[C@@H]1CCC=3C=CC=CC3[C@H]1CC2)=O | C18H22O
reactant | THF | 60 ml | C1CCOC1 | C4H8O
solvent | methanol | 75 ml | CO | CH4O
product | N-Benzylestra-1,3,5(10)-trien-17β-amine | C(C1=CC=CC=C1)N[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=CC=CC3[C@H]1CC2 | C25H31N
